US07635715B2
Step C: Preparation of 4-(6,7-dichloro-3-hydroxy-4,4-dimethyl-1-oxo-1,4-dihydro-2-naphthalenyl)-4-oxobutanoic acid
A mixture of 4-(6,7-dichloro-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalen-2-yl)-4-oxobutanal (0.22 g, 0.64 mmol) in 6 mL DMF was stirred at room temperature and treated with oxone (0.36 mL, 0.64 mmol). The mixture was stirred at room temperature for 2 hours. The mixture was quenched with 50 mL H2O and adjusted to pH=5 with concentrated HCl. The solid was collected by filtration and washed with 20 mL H2O. The crude was dried under high vacuum to give 0.23 g white solid. MS m/e: 357 (M+H)+. Calculated for C16H14Cl2O5: 356.

reactant | 4-(6,7-dichloro-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalen-2-yl)-4-oxobutanal | 0.64 mmol, 0.22 g | ClC=1C=C2C(C(C(=C(C2=CC1Cl)O)C(CCC=O)=O)=O)(C)C | C16H14Cl2O4
reactant | oxone | 0.64 mmol, 0.36 mL | OOS(=O)[O-].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-(6,7-dichloro-3-hydroxy-4,4-dimethyl-1-oxo-1,4-dihydro-2-naphthalenyl)-4-oxobutanoic acid | 0.23 g | ClC=1C=C2C(C(=C(C(C2=CC1Cl)=O)C(CCC(=O)O)=O)O)(C)C | C16H14Cl2O5
